US06013662
36.6 g of (2-methoxyphenyl)acetic acid, in suspension in 110 cm3 of bis(dimethylamino)methane, were cooled to a temperature in the region of 0° C. 110 cm3 of acetic anhydride were added dropwise, the temperature of the reaction mixture not exceeding 40° C. The reaction mixture was stirred for 24 hours at a temperature in the region of 20° C. and then cooled to a temperature in the region of 0° C. 500 cm3 of distilled water were then added and stirring was continued for 2 hours at a temperature in the region of 0° C. The solid which had appeared was separated by filtration, washed with three times 100 cm3 of distilled water and dried under reduced pressure at 40° C. 23 g of 2-(2-methoxyphenyl)propenoic acid were thus obtained in the form of a cream solid, the characteristics of which were as follows:

reactant | (2-methoxyphenyl)acetic acid | 36.6 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | acetic anhydride | 110 cm3 | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 500 cm3 | O | H2O
solvent | bis(dimethylamino)methane | 110 cm3 | CN(C)CN(C)C | C5H14N2
product | 2-(2-methoxyphenyl)propenoic acid | 23 g | COC1=C(C=CC=C1)C(C(=O)O)=C | C10H10O3
